US04864021
Preparation of 2'-deoxy-5-fluoro-3'-O-(1-naphthylmethyl)uridine
The general procedures of Examples 4 and 5 were followed using 1.3 g of potassium hydroxide, 1.00 g of 2'-deoxy-5-fluorouridine and 2.7 g of 1-naphthylmethyl bromide, thereby producing 0.28 g of the title compound in a yield of 18%.

reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | 2'-deoxy-5-fluorouridine | 1.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | 1-naphthylmethyl bromide | 2.7 g | C1(=CC=CC2=CC=CC=C12)CBr | C11H9Br
product | 2'-deoxy-5-fluoro-3'-O-(1-naphthylmethyl)uridine | 0.28 g, yield of 18% | FC=1C(NC(N([C@H]2C[C@H](OCC3=CC=CC4=CC=CC=C34)[C@@H](CO)O2)C1)=O)=O | C20H19FN2O5
